US08735414B2
A mixture of 6-bromo-1-cyclobutyl-5-fluoro-1H-indole-3-carbonitrile (29.9 g, 102 mmol), bis(pinacolato)diboron (33.7 g, 133 mmol), PdCl2dppf-CH2Cl2 complex (4.16 g, 5.1 mmol) and potassium acetate (30 g, 306 mmol) in dioxane (300 mL) was stirred at 80° C. overnight. The mixture was then cooled to room temperature, treated with ethyl acetate (200 mL) and filtered through a silica-celite pad. The filtrate was concentrated, dissolved in acetone (300 mL) and cooled to 0° C. Into this solution was added a slurry of Oxone (125.5 g, 204 mmol) in water (300 mL). The mixture was stirred at room temperature for 15 min, diluted with ethyl acetate and separated. The aqueous layer was extracted with ethyl acetate. The organic extractions were combined and washed with sat. aq. NaHSO3, and brine, dried over Na2SO4 and concentrated. The residue was purified on silica gel to provide 1-cyclobutyl-5-fluoro-6-hydroxy-1H-indole-3-carbonitrile as a light grey solid (19.2 g, 82%).

reactant | 6-bromo-1-cyclobutyl-5-fluoro-1H-indole-3-carbonitrile | 102 mmol, 29.9 g | BrC1=C(C=C2C(=CN(C2=C1)C1CCC1)C#N)F | C13H10BrFN2
reactant | bis(pinacolato)diboron | 133 mmol, 33.7 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 306 mmol, 30 g | C(C)(=O)[O-].[K+]
reactant | Oxone | 204 mmol, 125.5 g | OOS(=O)[O-].[K+]
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
solvent | water | 300 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 1-cyclobutyl-5-fluoro-6-hydroxy-1H-indole-3-carbonitrile | 19.2 g, 82% | C1(CCC1)N1C=C(C2=CC(=C(C=C12)O)F)C#N | C13H11FN2O
